US07855290B2
N-(2-Fluoro-4-{[2-({[(3R)-3-hydroxypyrrolidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
N-{4-[(2-Aminopyridin-4-yl)oxy]-2-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (150 mg) was dissolved in tetrahydrofuran (1.5 ml) under a nitrogen atmosphere, and triethylamine (0.181 ml) and phenyl chloroformate (0.163 ml) were added while stirring and cooling in an ice water bath, followed by stirring at the same temperature for 15 min. The reaction mixture was partitioned between ethyl acetate (30 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The separated organic layer was washed with brine (30 ml), and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. To the residue was added N,N-dimethylformamide (1.5 ml), and then (R)-(−)-3-pyrrolidinol hydrochloride (175 mg) and triethylamine (0.198 ml) were added, followed by stirring at room temperature for 5 hr. The reaction mixture was partitioned after addition of ethyl acetate (30 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The separated organic layer was washed with brine (30 ml), and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate 1:5, ethyl acetate, then ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated under reduced pressure, and to the residue (150 mg) were added tert-butyl methyl ether (2 ml) and heptane (2 ml) to suspend a solid. The solid was collected by filtration, and dried under aeration to provide the titled compound as white powder (141.6 mg, 74.4%).

reactant | N-{4-[(2-Aminopyridin-4-yl)oxy]-2-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 150 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C22H18F2N4O3
reactant | triethylamine | 0.181 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.163 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | N-(2-Fluoro-4-{[2-({[(3R)-3-hydroxypyrrolidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 141.6 mg, 74.4% | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1C[C@@H](CC1)O)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C27H25F2N5O5
